US06916822B2
(e) 4-(1,3-Dihydro-7-methyl-2H-benzimidazol-2-on-1-yl)piperidine hydrobromide
1-Ethoxycarbonyl-4-(1,3-dihydro-7-methyl-2H-benzimidazol-2-on-1-yl)piperidine (59 mg) was dissolved in 48% hydrobromic acid (0.3 ml) and stirred at 100° C. for 1 hour. The reaction mixture was added with ethanol, and the produced crystals were collected by filtration to obtain 26.8 mg of the title compound. Yield: 44%.

reactant | 1-Ethoxycarbonyl-4-(1,3-dihydro-7-methyl-2H-benzimidazol-2-on-1-yl)piperidine | 59 mg | C(C)OC(=O)N1CCC(CC1)N1C(NC2=C1C(=CC=C2)C)=O | C16H21N3O3
reactant | ethanol | C(C)O | C2H6O
reactant | hydrobromic acid | 0.3 ml | Br | BrH
product | 4-(1,3-Dihydro-7-methyl-2H-benzimidazol-2-on-1-yl)piperidine hydrobromide | 26.8 mg, Yield: 44% | Br.CC1=CC=CC2=C1N(C(N2)=O)C2CCNCC2 | InChI=1S/C13H17N3O.BrH/c1-9-3-2-4-11-12(9)16(13(17)15-11)10-5-7-14-8-6-10;/h2-4,10,14H,5-8H2,1H3,(H,15,17);1H
